US07067517B2
4-(4-Phenylbutyl)piperazine-1-carboxylic acid 4-chlorophenyl ester
The hydrochloride of the title compound was prepared from 4-chlorophenyl chloroformate and 1-(4-phenylbutyl)piperazine, yield 86%. White crystals, m.p. 230–232° C.; 1H NMR (DMSO-d6): δ 11.43 (br,1H), 7.51–7.43 (d-like m, 2H), 7.33–7.15 (m, 7H), 4.33–3.95 (br, max at 4.21 and 4.10 ppm; 2H), 3.72–3.36 (br m, 4H), 3.22–2.96 (br, max at 3.10 ppm, 4H), 2.62 (t, J=7.54 Hz, 2H), 1.84–1.69 (m, 2H), 1.69–1.54 (m, 2H) ppm; IR (KBr): ν 1736, 1720 (C═O) cm−1.

reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 1-(4-phenylbutyl)piperazine | C1(=CC=CC=C1)CCCCN1CCNCC1 | C14H22N2
reactant | KBr | [K+].[Br-]
product | 4-(4-Phenylbutyl)piperazine-1-carboxylic acid 4-chlorophenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CCCCC1=CC=CC=C1 | C21H25ClN2O2
